US08058425B2
1-(2-(tert-butyldimethylsilyloxy)eth-1-yl)-7-(1-(tert-butyldimethylsilyloxy)eth-1-yl)indole
Add sodium hydride (2.75 g, 24 mmol, 35% in mineral oil) to 1-(tert-butyldimethylsilyloxy)eth-1-yl)indole (5.5 g, 20 mmol) in N,N-dimethylformamide (50 ml) and stir for 15 minutes at 20° C. Add (2-bromoethoxy)-tert-butyldimethylsilane and stir at 20° C. for 4 hours. Dilute with hexanes. Wash with 0.25 M aqueous sodium bicarbonate followed by saturated aqueous sodium chloride. Dry over magnesium sulfate and concentrate under reduced pressure. Subject the residue to silica gel chromatography, eluting with hexane containing 30% ethyl acetate to provide the desired compound (8.0 g, 89%) as a colorless oil.

reactant | sodium hydride | 24 mmol, 2.75 g | [H-].[Na+]
reactant | indole | 20 mmol, 5.5 g | N1C=CC2=CC=CC=C12 | C8H7N
reactant | (2-bromoethoxy)-tert-butyldimethylsilane | BrCCO[Si](C)(C)C(C)(C)C | C8H19BrOSi
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 1-(2-(tert-butyldimethylsilyloxy)eth-1-yl)-7-(1-(tert-butyldimethylsilyloxy)eth-1-yl)indole | 8.0 g, 89% | [Si](C)(C)(C(C)(C)C)OCCN1C=CC2=CC=CC(=C12)C(C)O[Si](C)(C)C(C)(C)C | C24H43NO2Si2
